US08084623B2
A solution of 2-benzyl-2-(1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.045 g, 0.111 mmol) in 1N HCl in MeOH (2.2 mL) was stirred for 14 hours at ambient temperature under nitrogen. Aqueous NaOH (4 N, 0.6 mL) was added and the reaction mixture was extracted into DCM. The combined extracts were washed with brine then dried (MgSO4), filtered and concentrated in vacuo. Purification of the residue by chromatography (silica, 0-10% of a 9:1 MeOH:NH4OH solution in DCM) gave (2-benzyl-pyrrolidin-2-yl)-(1H-indol-5-yl)-methanone (0.021 g, 0.069 mmol, 62%) as a colourless solid, MS=305 [M+H]+.

reactant | 2-benzyl-2-(1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.111 mmol, 0.045 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C(=O)C=1C=C2C=CNC2=CC1)CC1=CC=CC=C1 | C25H28N2O3
reactant | NaOH | 4 N, 0.6 mL | [OH-].[Na+]
solvent | HCl | 1N | Cl | ClH
solvent | MeOH | 2.2 mL | CO | CH4O
product | (2-benzyl-pyrrolidin-2-yl)-(1H-indol-5-yl)-methanone | 0.069 mmol, 0.021 g, 62% | C(C1=CC=CC=C1)C1(NCCC1)C(=O)C=1C=C2C=CNC2=CC1 | C20H20N2O
